US04545942
N-(3,4-Dihydroxybenzoyl)-2-(2-cyanoethyl)alanine methyl ester
1.56 g of 2-(2-cyanoethyl)alanine methyl ester and 1.4 ml of triethylamine were added to a solution of crude 3,4-diacetoxybenzoyl chloride (prepared from 1.96 g of 3,4-diacetoxybenzoic acid and 2.08 g of phosphorus pentachloride) in 30 ml of dichloromethane, at 5° C. The reaction mixture was stirred at 0°-5° C. for one hour and then washed with 30 ml of water. The organic layer was separated off and dried over magnesium sulphate, and the solvent was distilled off. The resulting residue was dissolved in 10 ml of methanol, 8.3 ml of 28% aqueous ammonia solution were added, and the solution was stirred at room temperature for 23 hours. The mixture was then cooled to 5° C., adjusted to pH 2.0 with concentrated hydrochloric acid, diluted with 50 ml of water, and extracted with two 50 ml portions of dichloromethane. The organic extract was dried over magnesium sulphate, the solvent was distilled off, and the resulting residue was purified by silica gel chromatography (eluent: 2:1 mixture of cyclohexane and ethyl acetate), to give 1.60 g of the desired product as a colourless glass.

reactant | 2-(2-cyanoethyl)alanine methyl ester | 1.56 g | COC([C@@](N)(C)CCC#N)=O | C7H12N2O2
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-diacetoxybenzoyl chloride | 1.96 g | C(C)(=O)OC=1C=C(C(=O)Cl)C=CC1OC(C)=O | C11H9ClO5
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(3,4-Dihydroxybenzoyl)-2-(2-cyanoethyl)alanine methyl ester | 1.60 g | COC([C@@](NC(C1=CC(=C(C=C1)O)O)=O)(C)CCC#N)=O | C14H16N2O5
